US06982268B2
To a solution of 3-methoxy-5-phenyl-pyrazine-2-carboxylic acid methyl ester (150 mg, 0.58 mmol) in THF (20 mL) is added DIBAL-H (1 M in DCM, 1 mL, 1 mmol) dropwise at 0° C. under N2. The mixture is stirred at this temperature for 0.5 hour. Another portion of DIBAL-H (1 M in DCM, 0.8 mL, 0.8 mmol) is added. After 0.5 hour, the reaction is quenched with saturated NH4Cl (1 mL), and then NaOH (1.5 M, 2 mL). The mixture is extracted with EtOAc (3×20 mL). The combined organic layers are dried and the solvent removed. The crude product is purified by PTLC (silica gel; 10% MeOH in DCM) to give 60 mg of (3-methoxy-5-phenyl-pyrazin-2-yl)-methanol as an oil.

reactant | 3-methoxy-5-phenyl-pyrazine-2-carboxylic acid methyl ester | 0.58 mmol, 150 mg | COC(=O)C1=NC=C(N=C1OC)C1=CC=CC=C1 | C13H12N2O3
reactant | DIBAL-H | 1 mmol, 1 M, 1 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 0.8 mmol, 1 M, 0.8 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-methoxy-5-phenyl-pyrazin-2-yl)-methanol | 60 mg | COC=1C(=NC=C(N1)C1=CC=CC=C1)CO | C12H12N2O2
